US05916891
2-(4-Cyanophenyl)-1-methyl-4-phenyl-5(4-pyridyl)imidazole
4-Cyano-N-methyl-N-(4-picolyl)benzamide The title compound was prepared using the same procedure as described in Example 2, step (b) except using 4-cyanobenzoyl chloride: 1H NMR (CDCl3): d 8.49 (dd, 2H); 7.86-7.04 (m, 6H); 4.70 and 4.43 (two br s, 2H); 3.08 and 2.89 (two br s, 3H).

reactant | 4-Cyano-N-methyl-N-(4-picolyl)benzamide | C(#N)C1=CC=C(C(=O)N(CC2=CC=NC=C2)C)C=C1 | C15H13N3O
reactant | 4-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
product | 2-(4-Cyanophenyl)-1-methyl-4-phenyl-5(4-pyridyl)imidazole | C(#N)C1=CC=C(C=C1)C=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=NC=C1)C | C22H16N4
